US20010021478A1
Synthesis of 3,3″,5,5″-tetra-naphthyl-p-quaterphenyl (Compound 29)
A solution of 3,5-di-α-naphthyl bromobenzene (10.0 g, 0.0244 mol) in anhydrous THF (70 mL) was added dropwise to magnesium turnings (0.59 g, 0.0244 mol) in 10 mL THF. The solution was heated at 60° C. during the addition and the reaction was initiated using 1,2-dibromoethane. After the addition was complete, the brown solution was heated at reflux for 2 hrs. and then cooled to room temperature. In a separate flask, 4,4′-diiodobiphenyl (3.3 g 0.008 mol) and 0.3 g of dichlorobis(triphenyl phosphine) palladium(II) were placed under nitrogen and 30 mL of anhydrous THF was added. The Grignard reagent prepared about THF solution was then added using needle-transfer and an orange solution resulted. Heat was applied and the solution turned to almost black. The mixture was then heated at reflux for 45 min. and cooled to room temperature during which time a solid precipitated out of solution. A 2.0 M solution of HCl was added to the mixture and after stirring for 30 minutes, the water layer was removed. The solid precipitate was collected by filtration and washed with water and diethyl ether to yield a white solid (5.3 g, 81%)

reactant | 3,5-di-α-naphthyl bromobenzene | 0.0244 mol, 10.0 g | C1(=CC=CC2=CC=CC=C12)C=1C=C(C=C(C1)C1=CC=CC2=CC=CC=C12)Br | C26H17Br
reactant | magnesium | 0.0244 mol, 0.59 g | [Mg] | Mg
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | 4,4′-diiodobiphenyl | 0.008 mol, 3.3 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8I2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3,3″,5,5″-tetra-naphthyl-p-quaterphenyl | 5.3 g, 81% | C1(=CC=CC2=CC=CC=C12)C=1C=C(C=C(C1)C1=CC=CC2=CC=CC=C12)C1=CC=C(C=C1)C1=CC(=C(C(=C1)C1=CC=CC2=CC=CC=C12)C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12 | C64H42
